US06281221B1
3-Chloro-2-ethyl-4-(2-phenyl-1,3-dioxan-5-ylamino)-pyridine
2.3 g (10 mmol) of 5-chloro-6-ethyl-4-(1,3-dihydroxy-2-propylamino)-pyridine (prepared analogously to Example A from 2-amino-1,3-propanediol and 3,4-dichloro-2-ethyl-pyridine) and 5.0 g of benzaldehyde were heated with 2.1 g of p-toluenesulfonic acid hydrate in 40 ml of toluene, using a water separator, until the evolution of water had ended. Working up and purification were carried out analogously to Example A. the chromatography over silica gel (ethyl acetate) gave initially 0.6 g of trans isomer (18.8% of theory), melting point: 139-140° C., and then 2.4 g of cis isomer (75.2% of theory), melting point 119-120° C.

reactant | 5-chloro-6-ethyl-4-(1,3-dihydroxy-2-propylamino)-pyridine | 10 mmol, 2.3 g | ClC=1C(=CC=NC1CC)NC(CO)CO | C10H15ClN2O2
reactant | 2-amino-1,3-propanediol | NC(CO)CO | C3H9NO2
reactant | 3,4-dichloro-2-ethyl-pyridine | ClC=1C(=NC=CC1Cl)CC | C7H7Cl2N
reactant | benzaldehyde | 5.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulfonic acid hydrate | 2.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-Chloro-2-ethyl-4-(2-phenyl-1,3-dioxan-5-ylamino)-pyridine | ClC=1C(=NC=CC1NC1COC(OC1)C1=CC=CC=C1)CC | C17H19ClN2O2
